US06596743B2
Diphenylacetyl-carbamic acid tert.-butyl ester
The title compound, light yellow solid, m.p. 160-162° C. and MS: m/e=334 (M+Na+) was prepared in accordance with the general method of example 1 from diphenylacetyl isocyanate and tert.-butyl alcohol.

reactant | diphenylacetyl isocyanate | C1(=CC=CC=C1)C(C(=O)N=C=O)C1=CC=CC=C1 | C15H11NO2
reactant | tert.-butyl alcohol | C(C)(C)(C)O | C4H10O
product | Diphenylacetyl-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)=O | C19H21NO3
